US04001426
2-[4'-(3-Dimethylaminopropoxy)phenyl]-3-(3',5'-dimethylbenzoyl)benzofuran
Reaction of 2-p-hydroxyphenyl-3-(3',5'-dimethylbenzoyl)benzofuran with 3-dimethylaminopropyl chloride according to the procedure described in Example 7 gave the title compound.

reactant | 2-p-hydroxyphenyl-3-(3',5'-dimethylbenzoyl)benzofuran | OC1=CC=C(C=C1)C=1OC2=C(C1C(C1=CC(=CC(=C1)C)C)=O)C=CC=C2 | C23H18O3
reactant | 3-dimethylaminopropyl chloride | CN(CCCCl)C | C5H12ClN
product | 2-[4'-(3-Dimethylaminopropoxy)phenyl]-3-(3',5'-dimethylbenzoyl)benzofuran | CN(CCCOC1=CC=C(C=C1)C=1OC2=C(C1C(C1=CC(=CC(=C1)C)C)=O)C=CC=C2)C | C28H29NO3
